US07544704B2
5-Methyl-4-(4-methyl-1H-pyrazol-3-ylethynyl)-3-phenyl-isoxazole
As described for example 11c, 4-ethynyl-5-methyl-3-phenyl-isoxazole (73 mg, 0.40 mmol) was converted [using 3-iodo-4-methyl-1H-pyrazole (prepared according to Liebigs Ann. Chem. 595, 200, 1955) instead of 2-chloro-4-iodopyridine] to the title compound (SiO2, heptane:ethyl acetate=95:5 to 0:100, 56 mg, 53%) which was obtained as a light brown solid. MS: m/e=264.2 [M+H]+.

reactant | 4-ethynyl-5-methyl-3-phenyl-isoxazole | 0.40 mmol, 73 mg | C(#C)C=1C(=NOC1C)C1=CC=CC=C1 | C12H9NO
reactant | 3-iodo-4-methyl-1H-pyrazole | IC1=NNC=C1C | C4H5IN2
product | 5-Methyl-4-(4-methyl-1H-pyrazol-3-ylethynyl)-3-phenyl-isoxazole | 56 mg, 53% | CC1=C(C(=NO1)C1=CC=CC=C1)C#CC1=NNC=C1C | C16H13N3O
